data/oMe_Silver.jsonl
{"reaction_id": "NR-338_1-C_2-C_3-C#CC_4-C_5-c1ccc(C(=O)O)cc1","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(C)C#CC)(C)O[Si](C)(C)C","O=C(OO)c1ccc(C(=O)O)cc1"],"products_smiles": ["C(=O)(C(O[Si](C)(C)C)(C)C#CC)C"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](C)(C)C)(C)C(C)(C#CC)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](C)(C)C)(C)C([O-])(C)C#CC","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](C)(C)C)(C)C#CC)C","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
{"reaction_id": "NR-220_1-C(C)(C)C","level": "hard","name": "Piancatelli Rearrangement","reactants_smiles": ["C(O)(c1occc1)(C(C)(C)C)"],"products_smiles": ["C1C(O)C(C(C)(C)C)C(=O)C=1"],"conditions": "H+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(c1occc1)(C(C)(C)C)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting it into water, facilitated by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[CH+](c1occc1)C(C)(C)C","step_weight": 0,"rationale": "Heterolytic cleavage releases neutral water, generating a resonance-stabilized carbocation adjacent to the electron-rich furan ring."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC([OH2+])OC1=CC(C)(C)C","step_weight": 0,"rationale": "The furan π-system attacks the carbocation, forming a new C–C bond; aromaticity loss is offset by carbocation stabilization."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=CC([OH])[OH+]C1=CC(C)(C)C","step_weight": 0,"rationale": "Proton transfer adjusts the charge distribution, preparing the intermediate for elimination by generating a better leaving group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[OH+])C=CC([OH])=CC(C)(C)C","step_weight": 0,"rationale": "Elimination of a protonated hydroxyl group forms a conjugated enone system, driven by the stability of the α,β-unsaturated carbonyl."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1C(O)C(C(C)(C)C)C(=O)C=1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack by the hydroxyl group closes the cyclopentane ring, favored by proximity and relief of carbocation instability."}],"description": "Under acidic conditions, the Piancatelli rearrangement proceeds via protonation-induced ring opening of the furan, generating a stabilized carbocation. Subsequent nucleophilic additions and proton transfers reorganize the skeleton, leading to cyclopentenone formation with hydroxyl substitution adjacent to the carbonyl."}
